US04638006
A solution of hexahydro-5-oxo-1H-pyrrolizine-3 carboxylic acid ethyl ester (5.0 g, 0.0254 mol) in cis-3-[2,6-dimethylpiperidinyl]propylamine (34 g, 0.2 mol) is stirred at room temperature 24 hours and heated at 80° C. for 24 hours. The solution is concentrated at reduced pressure and distilled to yield N-[3-[2,6-dimethyl-1-piperidinyl]propyl]hexahydro-5 oxo1H-pyrrolizine-3-carboxamide.

reactant | hexahydro-5-oxo-1H-pyrrolizine-3 carboxylic acid ethyl ester | 0.0254 mol, 5.0 g | C(C)OC(=O)C1CCC2CCC(N12)=O | C10H15NO3
reactant | cis-3-[2,6-dimethylpiperidinyl]propylamine | 0.2 mol, 34 g | C[C@@H]1N([C@@H](CCC1)C)CCCN | C10H22N2
product | N-[3-[2,6-dimethyl-1-piperidinyl]propyl]hexahydro-5 oxo1H-pyrrolizine-3-carboxamide | CC1N(C(CCC1)C)CCCNC(=O)C1CCC2CCC(N12)=O | C18H31N3O2
